US06696444B2
6,2′-Difluoro-5′-[3-(1-hydroxy-1-methylethyl)imidazo[1,2-b][1,2,4]triazin-7-yl]biphenyl-2-carbonitrile
6,2′-Difluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-2-carbonitrile was coupled to 2-(7-bromoimidazo[1,2-b][1,2,4]triazin-3-yl)propan-2-ol in 32% yield using a similar procedure to that described in Example C, step f, to give a yellow solid: mp 206° C.; 1H NMR (360 MHz, CDCl3) δ1.71 (6H, s), 3.28 (1H, br s), 7.37-7.66 (4H, m), 8.15 (2H, m), 8.26 (1H, s), 8.78 (1H, s); MS (ES+) mn/z 392 [M+H]+. Anal. Found: C, 64.66; H, 3.93, N, 17.71%. Required for C21H15F2N5O: C, 64.45; H, 3.86; N, 17.89%.

reactant | 6,2′-Difluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-2-carbonitrile | FC=1C=CC=C(C1C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)C#N | C19H18BF2NO2
reactant | 2-(7-bromoimidazo[1,2-b][1,2,4]triazin-3-yl)propan-2-ol | BrC1=CN=C2N1N=CC(=N2)C(C)(C)O | C8H9BrN4O
product | 6,2′-Difluoro-5′-[3-(1-hydroxy-1-methylethyl)imidazo[1,2-b][1,2,4]triazin-7-yl]biphenyl-2-carbonitrile | FC=1C=CC=C(C1C1=C(C=CC(=C1)C1=CN=C2N1N=CC(=N2)C(C)(C)O)F)C#N | C21H15F2N5O
